US08859591B2
To a −40° C. solution of methyl 4-iodobenzoate (0.39 g, 1.5 mmol) in tetrahydrofuran (7.5 mL) was added isopropylmagnesium chloride-lithium chloride (1.5 mL, 1.3 M in THF, 1.95 mmol) dropwise. After stirring for 30 minutes at −40° C., 2-cyclopropylacetaldehyde (190 mg, 2.26 mmol) was added dropwise. The resulting mixture was then stirred at room temperature for 1 hour. The reaction mixture was quenched with saturated ammonium chloride and partitioned between water and ethyl acetate. The layers were separated and the aqueous was extracted again with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. Purification by column chromatography gave (+/−)-methyl 4-(2-cyclopropyl-1-hydroxyethyl)benzoate (150 mg, 45%). 1HNMR (400 MHz, CDCl3, δ): 7.89 (d, 2H), 7.32 (d, 2H), 4.75-4.72 (m, 1H), 3.79 (s, 3H), 1.60-1.51 (m, 2H), 0.60-0.51 (m, 1H), 0.49-025 (m, 2H), 0.07-0.12 (m, 2H).

reactant | methyl 4-iodobenzoate | 1.5 mmol, 0.39 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | isopropylmagnesium chloride lithium chloride | 1.95 mmol, 1.3 M, 1.5 mL | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | 2-cyclopropylacetaldehyde | 2.26 mmol, 190 mg | C1(CC1)CC=O | C5H8O
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
product | (+/−)-methyl 4-(2-cyclopropyl-1-hydroxyethyl)benzoate | 150 mg, 45% | C1(CC1)CC(O)C1=CC=C(C(=O)OC)C=C1 | C13H16O3
